US04409214
To a solution of 7-[(2-aminothiazol-4-yl)glyoxylamido]-3-vinyl-3-cephem-4-carboxylic acid (1.0 g) in N,N-dimethylformamide (10 ml) were added triethylamine (0.27 g), 3-bromophthalide (0.56 g) and sodium iodide (0.39 g) at 10° C. with stirring, and the stirring was continued at the same temperature for half an hour. After the reaction mixture was poured into water (50 ml), it was extracted with a mixture of tetrahydrofuran and ethyl acetate (1:1 by volume). The extract was washed with a saturated aqueous solution of sodium chloride and then dried over anhydrous magnesium sulfate, followed by evaporation to give an oil, which was pulverized with diisopropyl ether to obtain phthalid-3-yl 7-[(2-aminothiazol-4-yl)glyoxylamido]-3-vinyl-3-cephem-4-carboxylate (1.0 g).

reactant | 7-[(2-aminothiazol-4-yl)glyoxylamido]-3-vinyl-3-cephem-4-carboxylic acid | 1.0 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=O | C14H12N4O5S2
reactant | 3-bromophthalide | 0.56 g | BrC1OC(=O)C2=CC=CC=C12 | C8H5BrO2
reactant | sodium iodide | 0.39 g | [I-].[Na+]
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
solvent | triethylamine | 0.27 g | C(C)N(CC)CC | C6H15N
product | phthalid-3-yl 7-[(2-aminothiazol-4-yl)glyoxylamido]-3-vinyl-3-cephem-4-carboxylate | 1.0 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC2OC(=O)C3=CC=CC=C23)C1=O)=O | C22H16N4O7S2
